US07098212B2
5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridine-3-carbaldehyde
To a 0° C. suspension of sodium hydride (60% dispersion in mineral oil, 0.031 g, 0.78 mmol) in toluene (3 mL) was added 1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-hydroxy-ethanone (0.20 g, 0.71 mmol) in toluene (2 mL). The reaction mixture was stirred at 0° C. for 30 minutes, and then treated with 2,5-dichloro-pyridine-3-carbaldehyde (0.14 g, 0.78 mmol). The resulting mixture was refluxed for 4 hours, cooled to ambient temperature and washed with saturated aqueous sodium hydrogen carbonate and brine. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. Silica gel chromatography provided the title compound (0.20 g).

reactant | sodium hydride | 0.78 mmol, 0.031 g | [H-].[Na+]
reactant | 1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-hydroxy-ethanone | 0.71 mmol, 0.20 g | FC1=CC=C(CN2C[C@H](N(C[C@@H]2C)C(CO)=O)C)C=C1 | C15H21FN2O2
reactant | 2,5-dichloro-pyridine-3-carbaldehyde | 0.78 mmol, 0.14 g | ClC1=NC=C(C=C1C=O)Cl | C6H3Cl2NO
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridine-3-carbaldehyde | 0.20 g | ClC=1C=C(C(=NC1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)C=O | C21H23ClFN3O3
